Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p Fall from bicycle, major blunt chest trauma
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male helmeted bicyclist s/p fall from bicycle, flipping and 
hitting back on pole. He was transported to ___ for further 
care. 

 
Past Medical History:
Asthma
Pneumonia
 
Social History:
___
Family History:
Noncontributory
 
Pertinent Results:
___ 11:59AM   GLUCOSE-148* UREA N-14 CREAT-1.0 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-25 ANION GAP-15
___ 11:59AM   estGFR-Using this
___ 11:59AM   WBC-7.3 RBC-5.57 HGB-14.5 HCT-43.3 MCV-78* 
MCH-26.1* MCHC-33.6 RDW-13.3
___ 11:59AM   NEUTS-60.3 ___ MONOS-3.5 EOS-2.3 
BASOS-0.8
___ 11:59AM   PLT COUNT-247

CT Chest ___
IMPRESSION: 
  
1. Numerous right-sided rib fractures, with fractures involving 
multiple 
sites within the ribs, placing the patient at risk for flail 
chest. Associated moderate right hemothorax with pulmonary 
contusion and small right pneumothorax with locules of air in 
the right epicardial fat. 
  
2. Comminuted right scapular fracture. 

Chest xray ___

IMPRESSION: Newly apparent tiny right apical pneumothorax. 
Blunting of the 
right costophrenic sulcus consistent with a small effusion. 
Increased density in the lower right chest consistent with 
contusion probably unchanged. 
Subsegmental atelectasis left base. Multiple rib fractures and 
possible 
fracture right scapula. 

 
Brief Hospital Course:
He was admitted to the Trauma service for pain control and 
pulmonary management related to his rib fractures. He was 
initially placed on PCA and later changed over to oral 
narcotics. Epidural analgesia was discussed with him for which 
he declined. His oxygen saturations on room air were in the high 
90's and he had little to no oxygen requirements.

His right scapula fracture was managed non operatively and he 
will follow up in Orthopedics clinic in 2 weeks.

Adjunct pain therapy treatments were also implemented; around 
the clock Tylenol, prn NSAID's and a Lidoderm patch were all 
started. This regimen appeared to be effective as he was better 
able to ambulate, use the incentive spirometer, cough and deep 
breathe. A bowel regimen was also initiated.

He was discharged to home with his wife on hospital day 4 with 
instructions for follow up.
 
Medications on Admission:
Albuterol
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for pain.  
2. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
3. Hydromorphone 4 mg Tablet Sig: ___ - 2 Tablet PO Q3H (every 
3 hours) as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*
4. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours): take with food.
Disp:*120 Tablet(s)* Refills:*1*
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily): Apply 
to right chest wall region. Remove old patch first.
Disp:*30 Adhesive Patch, Medicated(s)* Refills:*1*
6. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) as 
needed for constipation.  
7. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  
8. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puffs Inhalation every six (6) hours as needed for 
shortness of breath or wheezing.
Disp:*1 * Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p Fall from bicycle
Right communicated scapula fracture
Multiple right rib fractures (posterior & lateral)
Right hemothorax
Small right apical pneumothorax
 
Discharge Condition:
Hemodynamically stable, tolerating a regular diet, pain 
adequately controlled.
 
Discharge Instructions:
Return to the Emergency room if you develop any fevers, chills, 
headaches, productive cough, shortness of breath, increased rib 
pain not relieved with the medication prescribed, nausea, 
vomiting, diarrhea and/or any other symptoms that are concerning 
to you.

It is important that you cough, deep breathe and use the 
incentive spirometer every hour that you are awake in order to 
minmize developing pneumonia which is commonly associated with 
rib fractures.

Take the pain medication as prescribed and continue the bowel 
regimen while you are on narcotics in order to prevent 
constipation.
 
Followup Instructions:
___